US08097708B2
Synthesis of N-[1-(1-methyl-1H-pyrazol-4-yl)ethyl]ethane-1,2-diamine
1-(1-Methyl-1H-pyrazol-4-yl)-ethanone (250 mg) and ethylenediamine (362 mg) were dissolved in methanol (10 ml), the solution was added with acetic acid (1.21 g) and sodium cyanoborohydride (189 mg), and the mixture was stirred at room temperature for 48 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate and tetrahydrofuran, the layers were separated, and then the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=10:1:0.1) to obtain the title compound (163 mg).

reactant | 1-(1-Methyl-1H-pyrazol-4-yl)-ethanone | 250 mg | CN1N=CC(=C1)C(C)=O | C6H8N2O
reactant | ethylenediamine | 362 mg | C(CN)N | C2H8N2
reactant | sodium cyanoborohydride | 189 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 1.21 g | C(C)(=O)O | C2H4O2
product | N-[1-(1-methyl-1H-pyrazol-4-yl)ethyl]ethane-1,2-diamine | 163 mg | CN1N=CC(=C1)C(C)NCCN | C8H16N4
